US08835444B2
Step 1: N-(3-chloro-6-methoxypyridin-2-yl)-2,2,2-trifluoroacetamide
3-Chloro-6-methoxy-pyridin-2-ylamine (commercial) (500 mg, 3.15 mmol) in dry THF (20 ml) and pyridine (374 mg, 4.73 mmol) cooled to 0° C. was treated with dropwise with trifluoroacetic anhydride (728 mg, 3.47 mmol). The reaction mixture was stirred at 0° C. for 1 hour and concentrated in vacuo. The mixture was partitioned between DCM and water. The organic phase was washed with water and brine, dried over MgSO4, filtered and the solvent was removed in vacuo. Purification by chromatography on silica eluting with EtOAc/iso-hexane afforded the title compound; 1H NMR (d6-DMSO, 400 MHz) δ 11.84 (1H, s), 7.98 (1H, d), 6.94 (1H, d), 3.87 (3H, s).

reactant | 3-Chloro-6-methoxy-pyridin-2-ylamine | 3.15 mmol, 500 mg | ClC=1C(=NC(=CC1)OC)N | C6H7ClN2O
reactant | pyridine | 4.73 mmol, 374 mg | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 3.47 mmol, 728 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(3-chloro-6-methoxypyridin-2-yl)-2,2,2-trifluoroacetamide | ClC=1C(=NC(=CC1)OC)NC(C(F)(F)F)=O | C8H6ClF3N2O2
